US04486354
A solution of 2,3,5-trichlorobenzoyl cyanide (38.5 g, 0.16M) in dimethylsulphoxide (80 ml) was added dropwise to a stirred suspension of aminoguanidine bicarbonate (65.76 g, 0.32M) which had been treated with 8N aqueous nitric acid (560 ml). The mixture was stirred for 3 hours and then was left to stand at room temperature for 21 days. The solid was filtered off, washed with water (2×100 ml) and dried in vacuo. A suspension of the dried solid in a 10% solution of potassium hydroxide pellets in methanol (320 ml) was heated to reflux for 1 hour, the mixture was cooled and evaporated down in vacuo. The residue was treated with ice/water (200 ml), the resultant solid was filtered off and dried in vacuo. This dried solid was put on top of a dry column (25 mm diameter, 200 g of MFC silica gel) and eluted with a solution of ethyl acetate/methanol/acetic acid (90:2.5:2.5). Fractions 50 to 80 (900 drops per fraction) were collected, combined and evaporated down in vacuo. The resultant solid was recrystallised from isopropanol to give 3,5-diamino-6-(2,3,5-trichlorophenyl)- 1,2,4-triazine. Yield 0.77 g (1.6%), m.p. 232°-235° C. (uncorrected).

reactant | 2,3,5-trichlorobenzoyl cyanide | 0.16M, 38.5 g | ClC1=C(C(=O)C#N)C=C(C=C1Cl)Cl | C8H2Cl3NO
reactant | aminoguanidine bicarbonate | 0.32M, 65.76 g | C(O)(O)=O.NNC(=N)N
reactant | nitric acid | 8N, 560 ml | [N+](=O)(O)[O-] | HNO3
solvent | dimethylsulphoxide | 80 ml | CS(=O)C | C2H6OS
product | 3,5-diamino-6-(2,3,5-trichlorophenyl)- 1,2,4-triazine | NC=1N=NC(=C(N1)N)C1=C(C(=CC(=C1)Cl)Cl)Cl | C9H6Cl3N5
